US07407949B2
Sodium hydride (60% dispersion in oil, 520 mg, 13 mmol) was added portionwise to a suspension of ethyl 5-amino-1-benzylpyrazole-4-carboxylate (2.2 g, 9 mmol) in anhydrous THP (30 ml) at 0° C. The mixture was allowed to warm to room temperature and stirred for 2 h then 1-fluoro-2-nitrobenzene (1.26 g, 9 mmol) was added and the resultant deep purple suspension was stirred at room temperature for 18 h. 1 M KHSO4 was added to quench the reaction and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate and the solution was washed with 0.3 M KHSO4, sat. NaHCO3 and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant 75% pet. ether/25% ethyl acetate) to yield ethyl 1-benzyl-5-(2′-nitrophenylamino)pyrazole-4-carboxylate (2.5 g, 76%).

reactant | Sodium hydride | 13 mmol, 520 mg | [H-].[Na+]
reactant | ethyl 5-amino-1-benzylpyrazole-4-carboxylate | 9 mmol, 2.2 g | NC1=C(C=NN1CC1=CC=CC=C1)C(=O)OCC | C13H15N3O2
reactant | 1-fluoro-2-nitrobenzene | 9 mmol, 1.26 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | KHSO4 | 1 M | OS(=O)(=O)[O-].[K+]
product | ethyl 1-benzyl-5-(2′-nitrophenylamino)pyrazole-4-carboxylate | 2.5 g, 76% | C(C1=CC=CC=C1)N1N=CC(=C1NC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C19H18N4O4
